US04147528
Preparation of Ethyl 1-(4-Chlorophenyl)-1,6-dihydro-2,4-dimethyl-6-oxopyrimidine-5-carboxylate
This compound is prepared in 42% yield from ethyl 3-amino-2-(4-chlorophenylcarbamoyl)crotonate in a manner analogous to Example 1 substituting triethyl orthoacetate for triethyl orthoformate.

reactant | ethyl 3-amino-2-(4-chlorophenylcarbamoyl)crotonate | N\C(=C(/C(=O)OCC)\C(NC1=CC=C(C=C1)Cl)=O)\C | C13H15ClN2O3
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | Ethyl 1-(4-Chlorophenyl)-1,6-dihydro-2,4-dimethyl-6-oxopyrimidine-5-carboxylate | 42% yield | ClC1=CC=C(C=C1)N1C(=NC(=C(C1=O)C(=O)OCC)C)C | C15H15ClN2O3
